US09302991B2
<Step-3>: N4-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-N2-ethyl-6-methylpyridine-2,4-dicarboxamide (Example-476, single enantiomer)
The title compound is prepared from 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinic acid (15 mg, 0.04 mmol, Step-2, single enantiomer) and ethanamine hydrochloride by the similar manner in Example-2.

reactant | 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinic acid | 0.04 mmol, 15 mg | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CC(=NC(=C1)C)C(=O)O | C17H15ClF3N3O4
reactant | ethanamine hydrochloride | Cl.C(C)N
product | N4-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)-N2-ethyl-6-methylpyridine-2,4-dicarboxamide | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CC(=NC(=C1)C)C(=O)NCC | C19H20ClF3N4O3
